US05393751
A solution of (3S,4S)-3-[(R)-1-(trimethylsilyloxy)-ethyl]-4-[(R)-3-oxo-1,4-dithian-2-yl]azetidin-2-one (650 mg), prepared in Reference Example 14, in dichloromethane (10 ml) was cooled at 0° C. and a solution of pyridine (483 mg) in dichloromethane (2 ml) and a solution of allyl chloroglyoxylate (603 g) in dichloromethane (3 ml) were added. The mixture was stirred at the same temperature for 2 hours. To this mixture was added ethanol (187 mg) at 0° C. and the mixture was stirred for 10 minutes, after which ether (30 ml) was added. The organic layer was washed with water, saturated copper sulfate solution and saturated aqueous sodium chloride solution in the order mentioned and dried over anhydrous magnesium sulfate. The solvent was then distilled off under reduced pressure and the residue was purified by flash column chromatography (packing: silica gel; ethyl acetate-hexane=1:5). The procedure gave allyl [(3S,4S)-2-oxo-4-[ (R)-3-oxo-1,4-dithian-2-yl]-3-[(R)-1-(trimethylsilyloxy)ethyl]azetidin-1-yl]glyoxylate as a colorless oil (853 mg).

reactant | (3S,4S)-3-[(R)-1-(trimethylsilyloxy)-ethyl]-4-[(R)-3-oxo-1,4-dithian-2-yl]azetidin-2-one | 650 mg | C[Si](O[C@H](C)[C@H]1C(N[C@@H]1[C@H]1SCCSC1=O)=O)(C)C | C12H21NO3S2Si
reactant | pyridine | 483 mg | N1=CC=CC=C1 | C5H5N
reactant | allyl chloroglyoxylate | 603 g | ClC(C(=O)OCC=C)=O | C5H5ClO3
reactant | ethanol | 187 mg | C(C)O | C2H6O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | ether | 30 ml | CCOCC | C4H10O
product | allyl [(3S,4S)-2-oxo-4-[ (R)-3-oxo-1,4-dithian-2-yl]-3-[(R)-1-(trimethylsilyloxy)ethyl]azetidin-1-yl]glyoxylate | 853 mg | O=C1N([C@@H]([C@H]1[C@@H](C)O[Si](C)(C)C)[C@H]1SCCSC1=O)C(C(=O)OCC=C)=O | C17H25NO6S2Si
